US06080750
2-Amino-5,6-dichloro-4-[[(1-hydroxymethyl-1-cyclobutyl)methyl]amino]pyrimidine (compound No. 33)
To 2-amino-6-chloro-4-[[(1-hydroxymethyl-1-cyclobutyl)methyl]amino]pyrimidine (0.24 g, 2.0 mmol) were added N-chlorosuccinimide (0.27 g, 2.0 mmol) and dimethylformamide (1.5 ml), and the mixture was stirred at room temperature for 2 days. Ethyl acetate was added and the mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=100:1) to give colorless prism crystals (0.3 g, 54.2%), m.p. 179-181° C. (acetone).

reactant | 2-amino-6-chloro-4-[[(1-hydroxymethyl-1-cyclobutyl)methyl]amino]pyrimidine | 2.0 mmol, 0.24 g | NC1=NC(=CC(=N1)NCC1(CCC1)CO)Cl | C10H15ClN4O
reactant | N-chlorosuccinimide | 2.0 mmol, 0.27 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5,6-dichloro-4-[[(1-hydroxymethyl-1-cyclobutyl)methyl]amino]pyrimidine | 0.3 g, 54.2% | NC1=NC(=C(C(=N1)NCC1(CCC1)CO)Cl)Cl | C10H14Cl2N4O
